### PR TITLE
Reworked "strange_cases" by the newly added "term_laml_cases"

### PR DESCRIPTION
**Pull request by binghe**
Recently a new lemma `term_laml_cases` has been added into `chap2Theory`:
```
[term_laml_cases]
⊢ ∀X. FINITE X ⇒
      ∀t. (∃s. t = VAR s) ∨ (∃M1 M2. t = M1 @@ M2) ∨
          ∃v vs Body.
            t = LAM v (LAMl vs Body) ∧ ¬is_abs Body ∧ v ∉ X ∧ ¬MEM v vs ∧
            ALL_DISTINCT vs ∧ DISJOINT (set vs) X
```
It's quite general, but the existing `strange_cases` is still useful in many places as the case splits are different with the above one:
```
[strange_cases] (old version)
⊢ ∀M. (∃vs M'. M = LAMl vs M' ∧ size M' = 1) ∨
      ∃vs args t.
        M = LAMl vs (t ·· args) ∧ args ≠ [] ∧ ¬is_comb t
```
Previously I have used this `strange_cases` to prove `hnf_cases`, but then I had to completely rework `hnf_cases` because it needs to assert `ALL_DISTINCT vs` which is not provided by `strange_cases`.

In this tiny PR, I reworked the proof of `strange_cases` (with `ALL_DISTINCT vs` added in all cases) by using the new `term_laml_cases`:
```
[strange_cases] (new version)
⊢ ∀M. (∃vs M'. M = LAMl vs M' ∧ size M' = 1 ∧ ALL_DISTINCT vs) ∨
      ∃vs args t.
        M = LAMl vs (t ·· args) ∧ args ≠ [] ∧ ¬is_comb t ∧ ALL_DISTINCT vs
```
and then the old shorter proof of `hnf_cases` can be recovered. The overall proof size is slightly decreased, which is good in general.

Chun

### CODE REVIEW

File: examples/lambda/barendregt/chap2Script.sml [hunk 1]
```diff
@@ -830,6 +830,16 @@ val is_comb_APP_EXISTS = store_thm(
   ``!t. is_comb t = (?u v. t = u @@ v)``,
   PROVE_TAC [term_CASES, is_comb_thm]);
 
+Theorem is_comb_appstar_exists :
```
Comment (mn200) [inline examples/lambda/barendregt/chap2Script.sml:833]: This could be an iff.

Comment (mn200) [inline examples/lambda/barendregt/chap2Script.sml:833]: This could be an iff.

Comment (binghe) [reply examples/lambda/barendregt/chap2Script.sml:833]: Done, thanks.

**Comment by mn200** [comment]
Incidentally, I noticed you turned `IMP_RES_TAC oldthm` into `metis_tac[newthm]` having made `newthm` an iff-version of `oldthm`. But you could equally get back the `oldthm` by using `iffLR`, which would allow `IMP_RES_TAC $ iffLR newthm` as your tactic.

**Comment by binghe** [comment]
> Incidentally, I noticed you turned `IMP_RES_TAC oldthm` into `metis_tac[newthm]` having made `newthm` an iff-version of `oldthm`. But you could equally get back the `oldthm` by using `iffLR`, which would allow `IMP_RES_TAC $ iffLR newthm` as your tactic.

Thanks, I never knew `iffLR` before... Will try to remember this and use it next time.

**Comment by binghe** [comment]
It turns out that two theorems I added recently into `listTheory` were already provided in `rich_listTheory`, namely `LENGTH_FRONT` and `ZIP_SNOC`. I will delete them (and open `rich_listTheory` instead) as part of next PR.

Previously I wrongly thought `rich_listTheory` only provides new theorems related to new list-related definitions but actually it just tries to enrich `listTheory`.

**Comment by mn200** [comment]
As well as `iffLR`, there's `iffRL` and `cj`.  All have the advantage of "attacking" the hearts of universally quantified implications.  If your theorem is
```
  |- !vs... p /\ q ==> !us. r ==> s ==>  (lhs <=> rhs)
```
then `iffRL` on this will return 
```
  |- !vs... p /\ q ==> !us. r ==> s ==> (rhs ==> lhs)
```
Similarly, `cj i` will extract the `i`-th conjunct (counting from 1(!)) of a conjunction sitting in the same position as `lhs <=> rhs` above.

**Comment by mn200** [comment]
`rich_list` is gross; but `listTheory` is already bigger than I'd like it to be.  It's hard to know quite what to do about this.
